US07112678B2
A solution of 1-[4-tert-butoxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one (0.194 g, 0.5 mmol), sulfur (0.02 g, 0.5 mmol) and toluene (5 mL) was refluxed for 1 day. After filtration of the mixture through a pad of Celite and evaporation of the solvent under reduced pressure, the crude material was purified by radial PLC (hexanes) to afford 0.091 g (54%) of 4-tert-butoxymethyl-3-(1-methylpyrrolidin-2-yl)-pyridine as a yellow oil. IR (thin film, neat, NaCl) 2970, 2778, 1594, 1362, 1193, 1088 cm−1; 1H NMR (CDCl3, 400 MHz) δ 8.72 (s, 1H), 8.45 (d, 1H, J 6.4 Hz), 7.40 (d, 1H, J=6.4 Hz), 4.52 (s, 2H), 3.32–3.20 (m, 3H), 2.32–2.22 (m, 2H), 2.18 (s, 3H), 1.96–1.66 (m, 4H), 1.29 (s, 9H); 13C NMR (CDCl3, 100 MHz) δ 148.3, 147.7, 146.2, 135.3, 121.4, 73.4, 65.2, 59.6, 56.5, 40.2, 33.7, 27.20, 22.4; HRMS Calcd for C15H24N2O: 249.1967 [M+H]+. Found: 249.1964 [M+H]+. [α]D28−108.2 (c 3.4, CH2Cl2).

reactant | 1-[4-tert-butoxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one | 0.5 mmol, 0.194 g | C(C)(C)(C)OCC1C(=CN(C=C1)C(C(C)(C)C)=O)C1N(CCC1)C | C20H34N2O2
reactant | sulfur | 0.5 mmol, 0.02 g | [S] | S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-tert-butoxymethyl-3-(1-methylpyrrolidin-2-yl)-pyridine | 0.091 g, 54% | C(C)(C)(C)OCC1=C(C=NC=C1)C1N(CCC1)C | C15H24N2O
